US07314888B1
In 200 ml of N,N-dimethylformamide are suspended 10 g of 2,5-dihydroxybenzoic acid, 148 g of potassium carbonate and 106 ml of isobutyl bromide. The mixture is stirred at 110° C. for 6 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to obtain 18 g of isobutyl 2,5-diisobutoxybenzoate as a light yellow oily product.

reactant | 2,5-dihydroxybenzoic acid | 10 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | potassium carbonate | 148 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl bromide | 106 ml | C(C(C)C)Br | C4H9Br
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isobutyl 2,5-diisobutoxybenzoate | 18 g | C(C(C)C)OC1=C(C(=O)OCC(C)C)C=C(C=C1)OCC(C)C | C19H30O4
